US04386099
(b) N-Methyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine
Twenty grams of N-cyano-N'-[4-(imidazol-4-yl)-phenyl]-formamidine was added in one portion to 35% methylamine in water (70 ml). A few minutes after the addition, the solid N-methyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine separated out of the solution. This solid was collected by filtration, washed with water, and dried to yield 13.45 gm of the desired product, which was recrystallized from acetone.

reactant | N-cyano-N'-[4-(imidazol-4-yl)-phenyl]-formamidine | Twenty grams | C(#N)NC=NC1=CC=C(C=C1)C=1N=CNC1 | C11H9N5
reactant | methylamine | CN | CH5N
solvent | water | 70 ml | O | H2O
product | N-Methyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine | 13.45 gm | CNC=NC1=CC=C(C=C1)C=1N=CNC1 | C11H12N4
